US09079876B2
Step B. Preparation of Compound 5-(methylthio)-2-aminopyridine (Compound 1 B)
5-(methylthio)-2-nitropyridine (270 g), iron powder (600 g), acetic acid (500 mL) and water (2 L) were heated to reflux for 4 hours. Then saturated sodium bicarbonate solution (6 L) was added into the reaction mixture. The reaction mixture was filtered, and the filtrate was extracted with ethyl acetate. The organic phase was washed with saturated NaCl solution, and dried with anhydrous sodium sulfate. After filtration, the residual solution was removed under reduced pressure to obtain the target compound (185 g). 1H-NMR (300 MHz, CDCl3): δ 2.39 (3H, s), 4.49 (2H, brs), 6.47 (1H, d), 7.50 (1H, dd), 8.11 (1H, d). LC-MS m/z: 141 [M++1].

reactant | 5-(methylthio)-2-nitropyridine | 270 g | CSC=1C=CC(=NC1)[N+](=O)[O-] | C6H6N2O2S
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 6 L | C([O-])(O)=O.[Na+]
catalyst | iron | 600 g | [Fe] | Fe
solvent | water | 2 L | O | H2O
product | 5-(methylthio)-2-aminopyridine | 185 g | CSC=1C=CC(=NC1)N | C6H8N2S
